US09406977B2
4-(1,1,2,3,3,3-hexafluoropropyl)-1,3-dioxan-2-one
Example 6 was prepared by combining 1,3-dioxan-2-one (240 g, 2.35 moles) (Richman Chemical Inc., Lower Gwynedd, Pa.) with benzoyl peroxide (5 g, 0.02 moles) in a 600 mL Parr reactor. The reactor was heated to 73° C. and hexafluoropropene (16 g, 0.1066 moles) was fed into the reactor over a 24 h period. The reactor was maintained at the set temperature for an additional 24 h. The reactor contents were collected and analyzed by GC/MS.

reactant | 1,3-dioxan-2-one | 2.35 moles, 240 g | O1C(OCCC1)=O | C4H6O3
reactant | benzoyl peroxide | 0.02 moles, 5 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | hexafluoropropene | 0.1066 moles, 16 g | FC(C(=C(F)F)F)(F)F | C3F6
product | 4-(1,1,2,3,3,3-hexafluoropropyl)-1,3-dioxan-2-one | FC(C(C(F)(F)F)F)(F)C1OC(OCC1)=O | C7H6F6O3
